US07902238B2
In analogy to example 1.d (S)-2-amino-3-[(4-benzyl-phenyl)-isopropyl-amino]-propan-1-ol was reacted with cyanogen bromide to give (S)-4-{[(4-benzyl-phenyl)-isopropyl-amino]-methyl}-4,5-dihydro-oxazol-2-ylamine. Light yellow gum. MS (ISP): 324.4 ([M+H]+)

reactant | (S)-2-amino-3-[(4-benzyl-phenyl)-isopropyl-amino]-propan-1-ol | N[C@H](CO)CN(C(C)C)C1=CC=C(C=C1)CC1=CC=CC=C1 | C19H26N2O
reactant | cyanogen bromide | N#CBr | CBrN
product | (S)-4-{[(4-benzyl-phenyl)-isopropyl-amino]-methyl}-4,5-dihydro-oxazol-2-ylamine | C(C1=CC=CC=C1)C1=CC=C(C=C1)N(C(C)C)C[C@@H]1N=C(OC1)N | C20H25N3O
